US08580790B2
Step a) 4-(5-Iodopyridin-2-yl)piperazine-1-carboxylic acid tert-butyl ester
By carrying out the procedure as described in preparation 1, but using 2-fluoro-5-iodopyridine instead of 2-chloro-5-(trifluoromethyl)pyridine and N-Boc-piperazine instead of cis-2,6-dimethylpiperazine, the title compound is obtained in the form of an oil.

reactant | 2-fluoro-5-iodopyridine | FC1=NC=C(C=C1)I | C5H3FIN
reactant | N-Boc-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
product | 4-(5-Iodopyridin-2-yl)piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)I | C14H20IN3O2
